US04340729
2.5 g of 1-(5-deoxy-2,3-di-O-acetyl-β-D-ribofuranosyl)-5-fluorouracil were heated under reflux in 60 ml of methanol in the presence of 0.3 ml of triethylamine until starting material could no longer be detected by thin-layer chromatography. The colourless, clear solution was concentrated under reduced pressure and the white, crystalline material obtained was recrystallised from water. There was obtained pure 5'-deoxy-5-fluorouridine, m.p. 192°-193° C., in 98% yield.

reactant | 1-(5-deoxy-2,3-di-O-acetyl-β-D-ribofuranosyl)-5-fluorouracil | 2.5 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)C)N1C(=O)NC(=O)C(=C1)F | C13H15FN2O7
reactant | triethylamine | 0.3 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 60 ml | CO | CH4O
product | 5'-deoxy-5-fluorouridine | 98% yield | FC=1C(NC(N([C@H]2[C@H](O)[C@H](O)[C@@H](C)O2)C1)=O)=O | C9H11FN2O5
